US05302720
Reaction of 2-aminobiphenyl (10 g) with thiophosgene (10.2 g) in a mixture of dioxane (15 ml) and water (50 ml) at 0°-5° C. for 30 minutes and at ambient temperature for 2 hours with stirring gave 2-biphenylylisothiocyanate as a yellow oil.

reactant | 2-aminobiphenyl | 10 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | thiophosgene | 10.2 g | C(=S)(Cl)Cl | CCl2S
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
product | 2-biphenylylisothiocyanate | C=1(C(=CC=CC1)N=C=S)C1=CC=CC=C1 | C13H9NS
